* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL out
.include "vca810.lib"
V_PWR07 N+5V 0 +5V
V1 N+5V 0 5
V_PWR02 N-5V 0 -5V
V_PWR06 N-5V 0 -5V
V2 0 N-5V 5
V3 in 0 SINE(0 10m 1k) AC 1
V4 gain 0 VPWL
XU1 in 0 gain out N+5V N-5V 0 VCA810
V_PWR01 N+5V 0 +5V
.tran 1
.backanno
.end
